US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (0.249 g, 1.17 mmol) was reacted with 2-azidoethanamine (0.101 g, 1.17 mmol) and triethylamine (0.237 g, 2.34 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-1H-pyrrole-2-carboxamide (0.137 g, 66%). 1H NMR (300 MHz, CD3OD) δ 6.88 (d, 1H), δ 6.77 (d, 1H), δ 6.14 (t, 1H), δ 3.46 (t, 2H), δ 3.37 (q, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 162.9, 125.6, 122.2, 121.9, 110.9, 109.2, 50.6, 38.9 ppm; HRMS (ESI) calcd for C7H9N5O (M+) 179.0807. found 179.0803.

reactant | N-(2-azidoethyl)tetradecanamide | 1.17 mmol, 0.249 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.17 mmol, 0.101 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.34 mmol, 0.237 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-1H-pyrrole-2-carboxamide | 0.137 g, 66% | N(=[N+]=[N-])CCNC(=O)C=1NC=CC1 | C7H9N5O
